US07524965B2
To a stirred solution of 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid (670 mg, 1.82 mmol) and methyl 4-amino-2,5-dimethylbenzoate (390 mg, 2.18 mmol) in dichloromethane (3.6 mL) and diisopropylethylamine (0.413 mL) was added O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (829 mg, 2.18 mmol). The resulting mixture was stirred at room temperature overnight. The mixture was then washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with dichloromethane containing from 3% to 5% methanol to provide methyl 4-{3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionylamino}-2,5-dimethylbenzoate (568 mg, 59% yield). LCMS (10-70) Rt=4.55; [M+H+] found 530.4.

reactant | 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid | 1.82 mmol, 670 mg | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | C21H24N2O4
reactant | methyl 4-amino-2,5-dimethylbenzoate | 2.18 mmol, 390 mg | NC1=CC(=C(C(=O)OC)C=C1C)C | C10H13NO2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 2.18 mmol, 829 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 3.6 mL | ClCCl | CH2Cl2
solvent | diisopropylethylamine | 0.413 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | methyl 4-{3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionylamino}-2,5-dimethylbenzoate | 568 mg, 59% yield | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)NC1=CC(=C(C(=O)OC)C=C1C)C)C1=CC=CC=C1 | C31H35N3O5
